US04689414
(B) 3,6-Dihydro-2-cyanoimino-4-methyl-6-(3-nitrophenyl)-1,5(2H)-pyrimidinedicarboxylic acid, diethyl ester
A suspension of 1,2,3,4-tetrahydro-2-cyanoimino-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester (565 mg, 1.72 mmoles) in dry tetrahydrofuran (70 ml) and pyridine (2.0 ml) was cooled to 0° C. and treated with ethyl chloroformate (0.17 ml, 2.24 mmoles) dropwise under argon. After the addition was completed, the cooling bath was removed and the reaction was allowed to stir at room temperature for 13 hours. Dry dimethylformamide (2.0 ml) was added and the reaction suspension became a homogeneous solution. It was then treated with triethylamine (0.5 ml) followed by ethyl chloroformate (0.1 ml). The reaction was allowed to stir at room temperature for 1 hour and then diluted with ethyl acetate. It was washed with 1N hydrochloric acid, water, sodium bicarbonate solution and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated. The residue was purified by flash chromatography (10% ethyl acetate in dichloromethane) to provide a light yellow foam (585 mg). This material was combined with another batch of the same product and was crystallized from isopropyl ether-dichloromethane to yield the title compound, melting point 173.5°-175° C.

reactant | 1,2,3,4-tetrahydro-2-cyanoimino-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 1.72 mmoles, 565 mg | C(#N)N=C1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C15H15N5O4
reactant | ethyl chloroformate | 2.24 mmoles, 0.17 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 3,6-Dihydro-2-cyanoimino-4-methyl-6-(3-nitrophenyl)-1,5(2H)-pyrimidinedicarboxylic acid, diethyl ester | 585 mg | C(#N)N=C1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C18H19N5O6
